US07700638B2
7-(3-((Dimethylamino)methyl)Phenyl)-1-phenyl-5-trifluoromethylbenzimidazole
This was prepared analogeously to the above product from 7-(3-(chloromethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole (0.97 g, 2.5 mmol) and dimethyl amine (2 ml) in NMP (5 ml) to yield 0.54 g (55%), m/z, 396.2 (M+H)+.

reactant | 7-(3-(chloromethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 2.5 mmol, 0.97 g | ClCC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C21H14ClF3N2
reactant | dimethyl amine | 2 ml | CNC | C2H7N
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 7-(3-((Dimethylamino)methyl)Phenyl)-1-phenyl-5-trifluoromethylbenzimidazole | CN(C)CC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C23H20F3N3
